US03984465
Step F: (1-Oxo-2-ethyl-2-methyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic Acid
A stirred mixture of 2-ethyl-2-methyl-3-phenyl-6,7-dichloro-5-hydroxy-1-indanone (6.24 g., 0.0186 mole), potassium carbonate (5.15 g., 0.0372 mole) and ethyl bromoacetate (6.22 g., 0.0372 mole) in dimethylformamide (60 ml.) is warmed at 55°-60° C. for 3 hours, then treated with water (60 ml.) and 10N sodium hydroxide solution (5 ml., 0.05 mole) and heated at 80°C. for one hour. The reaction mixture is added slowly to water (800 ml.)-6N hydrochloric acid (20 ml.) to precipitate (1-oxo-2-ethyl-2-methyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid (3.7 g.) which melts at 192° C. on crystallization from

reactant | 2-ethyl-2-methyl-3-phenyl-6,7-dichloro-5-hydroxy-1-indanone | 0.0186 mole, 6.24 g | C(C)C1(C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)O)Cl)Cl)=O)C | C18H16Cl2O2
reactant | potassium carbonate | 0.0372 mole, 5.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0372 mole, 6.22 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.05 mole, 10N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | -6N, 800 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | (1-Oxo-2-ethyl-2-methyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic Acid | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C1=CC=CC=C1)(C)CC | C20H18Cl2O4
